US04367238
A mixture of 2-methoxy-3-(2-chlorophenoxy)benzyl alcohol (5.5 g), thionyl chloride (3 ml) and pyridine (one drop) in benzene (40 ml) was treated in a similar manner to that of Example 3-(6) to give oily 2-chlorophenyl 2-methoxy-3-chloromethylphenyl ether (6.4 g).

reactant | 2-methoxy-3-(2-chlorophenoxy)benzyl alcohol | 5.5 g | COC1=C(CO)C=CC=C1OC1=C(C=CC=C1)Cl | C14H13ClO3
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | pyridine | one drop | N1=CC=CC=C1 | C5H5N
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | 2-chlorophenyl 2-methoxy-3-chloromethylphenyl ether | 6.4 g | COC1=C(C=CC=C1CCl)OC1=C(C=CC=C1)Cl | C14H12Cl2O2
